US05137877
A solution of 1-acetylthio-4-(N-phtalimido)-2-butene (6.5 g, 23.6 mmol) in absolute ethanol (150 ml) and hydrazine (1.74 g, 54 mmol) was heated to reflux. The reaction was followed by TLC and when no starting material was present the solution was chilled in ice and treated with 6N HCl (10 ml). A voluminous precipitate formed and was identified as phtalhydrazide (NMR, MS) and it was filtered off. The filtrate was concentrated to 10 ml and diluted with water. The solid was filtered off and the filtrate was washed with ether (2X) and methylene chloride (1X), filtered through Celite and freeze-dried. The solid was dissolved in a small amount of methanol and the solution was filtered through Celite, the solvent evaporated and the residue evacuated overnight. A waxy, hygroscopic material was obtained, having the characteristics of: NMR (DMSO-D2O) δ 5.83, 5.60 (m,m 2H, 2 =CH--) 3.40 (d, 2H CH2NH2), 3.16 (d 2H, CH2SH) MS (m/e) 104 (corresponds to [M+H]+), 87, 70. This waxy material was dissolved in HPLC grade methanol (75 ml). The solution was stirred and treated with methoxycarbonylsulfenyl chloride (3 g, 23.7 mmol). After 1/2 h starting material was not detected by TLC. The solvent was evaporated and the residue was redissolved in methanol (75 ml). The solution was stirred and treated with 2-mercaptopyridine (2.7 g, 24 mmol). After 2 h the solvent was evaporated and the residue evacuated at high vacuum. The residue was then dissolved in a mixture of 0.01 N HCl and methanol (90:10, 130 ml). The cloudy solution was washed with methylene chloride, filtered through Celite and freeze-dried to yield 1-amino-4-[(2-pyridinyl)dithio]-2-butene hydrochloride as a highly hygroscopic fluffy material (4 g, 68%) having the characteristics of IR(KBr) 3433, 2959, 2884, 1607, 1576, 1447, 1418, 1118, 767 cm-1. NMR(D2O) δ 8.51, 8.13, 8.02, 7.54 (m 4H, Py) 5.87, 572 (m,m 2H, 2 =CH--) 3.54 (d 2H, CH2NH2) 3.43 (d 2H, CH2S). MS (m/e) 213 (corresponds to [M+H]+), 196, 112.

reactant | hydrazine | 54 mmol, 1.74 g | NN | H4N2
reactant | HCl | 6N, 10 ml | Cl | ClH
reactant | phtalhydrazide | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
reactant | methoxycarbonylsulfenyl chloride | 23.7 mmol, 3 g | COC(=O)SCl | C2H3ClO2S
reactant | 2-mercaptopyridine | 24 mmol, 2.7 g | SC1=NC=CC=C1 | C5H5NS
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | methanol | 75 ml | CO | CH4O
product | 1-amino-4-[(2-pyridinyl)dithio]-2-butene hydrochloride | Cl.NCC=CCSSC1=NC=CC=C1 | InChI=1S/C9H12N2S2.ClH/c10-6-2-4-8-12-13-9-5-1-3-7-11-9;/h1-5,7H,6,8,10H2;1H
